* c:\users\sreev\esim-workspace2\por\por.cir

.include "C:\FOSSEE2\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE2\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE2\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE2\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE2\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE2\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE2\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
* s c m o d e
xsc2 net-_sc1-pad1_ gnd iref gnd sky130_fd_pr__nfet_01v8 
xsc3 vdd gnd iref gnd sky130_fd_pr__nfet_01v8 
xsc5 net-_sc5-pad1_ net-_sc4-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc4 net-_sc4-pad1_ net-_sc4-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc8 v2 vdd gnd gnd sky130_fd_pr__nfet_01v8 
xsc10 rstn v2 gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ rstn vdd vdd sky130_fd_pr__pfet_01v8 
xsc7 v2 net-_sc5-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
xsc9 rstn v2 vdd vdd sky130_fd_pr__pfet_01v8 
xsc6 net-_sc5-pad1_ net-_sc5-pad1_ vdd vdd sky130_fd_pr__pfet_01v8 
v1  rstn gnd pulse(0 1 0.007 0.0001 0.0001 0.015 0.0225)
* u1  rstn plot_v1
* u2  iref plot_v1
* u4  v2 plot_v1
* u3  vdd plot_v1
* u5  iref net-_sc4-pad1_ plot_i2
v2 vdd gnd  dc 0.5
v_u5 iref net-_sc4-pad1_ 0
.tran 1e-03 30e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(rstn)
plot v(iref)
plot v(v2)
plot v(vdd)
plot i(v_u5)
.endc
.end
